US09376422B2
tert-Butyl-4-{ethyl[3-(methoxycarbonyl)-2-methyl-5-(trifluoromethyl)phenyl]amino}piperidine-1-carboxylate
To a stirred solution of tert-butyl 4-{[3-(methoxycarbonyl)-2-methyl-5-(trifluoromethyl)phenyl]amino}piperidine-1-carboxylate (10.6 g, 25.4 mmol) in CH2Cl2 (200 mL) and AcOH (10 mL) was added acetaldehyde (2.80 g, 63.5 mmol) and sodium triacetoxyborohydride (13.4 g, 63.5 mmol). The reaction mixture was stirred at 23° C. for 24 hours. Then saturated NaHCO3 was added and the mixture was separated. The aqueous layer was extracted with CH2Cl2 (3×50 mL) and the combined organic layer was concentrated in vacuo. The residue was purified by silica gel column chromatography (SiO2 Heptane/EtOAc=5/1) to give the titled compound as oil (4.50 g, 40% yield). 1H-NMR (400 MHz, CDCl3) δppm; 7.82 (br. s., 1H), 7.45 (d, J=1.6 Hz, 1H), 3.96-4.18 (m, 2H), 3.92 (s, 3H), 3.08 (q, J=7.0 Hz, 2H), 2.89 (tt, J=11.0, 3.7 Hz, 1H), 2.69 (m, 2H), 2.55 (s, 3H), 1.73 (m, 2H), 1.49-1.56 (m, 2H), 1.45 (s, 9H), 0.86 (t, J=7.0 Hz, 3H); MS (ES) [M+Na] 467.0.

reactant | tert-butyl 4-{[3-(methoxycarbonyl)-2-methyl-5-(trifluoromethyl)phenyl]amino}piperidine-1-carboxylate | 25.4 mmol, 10.6 g | COC(=O)C=1C(=C(C=C(C1)C(F)(F)F)NC1CCN(CC1)C(=O)OC(C)(C)C)C | C20H27F3N2O4
reactant | acetaldehyde | 63.5 mmol, 2.80 g | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 63.5 mmol, 13.4 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
product | tert-Butyl-4-{ethyl[3-(methoxycarbonyl)-2-methyl-5-(trifluoromethyl)phenyl]amino}piperidine-1-carboxylate | 4.50 g, 40% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C1=C(C(=CC(=C1)C(F)(F)F)C(=O)OC)C)CC | C22H31F3N2O4
